US07767691B2
Preparation of 1-{3-[(3-chlorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (31.9 mg, 0.114 mmol) and 3-bromopropyl 3-chlorophenyl ether (50.6 mg, 0.203 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (28.7 mg, 48%). EI-MS m/z 448 (M+) Rt (2.0 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.114 mmol, 31.9 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 3-bromopropyl 3-chlorophenyl ether | 0.203 mmol, 50.6 mg | ClC=1C=C(C=CC1)OCCCBr | C9H10BrClO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 1-{3-[(3-chlorophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.1]heptane bromide | 28.7 mg, 48% | [Br-].ClC=1C=C(C=CC1)OCCC[N+]12CCC(CC1)(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C28H31ClNO2.BrH/c29-25-13-7-14-26(21-25)32-20-8-17-30-18-15-27(22-30,16-19-30)28(31,23-9-3-1-4-10-23)24-11-5-2-6-12-24;/h1-7,9-14,21,31H,8,15-20,22H2;1H/q+1;/p-1
